US06930120B2
2-(3,4-Difluoro-phenoxy)-2-methyl-3-(4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The title compound was prepared from 2-(3,4-difluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester using the method of Example 56. 1H NMR (400 MHz, CDCl3) δ 7.61 (d, d, 1H, J=3.6 Hz), 7.39 (d, 1H, J=5.2 Hz), 7.17 (d, 2H, J=8.4 Hz), 7.08 (dd, 1H, J=5.2, 3.6 Hz), 7.00 (q, 1H, J=9.5 Hz), 6.82 (d, 2H, J=8.4 Hz), 6.78 (ddd, 1H, J=11.6, 6.4, 2.8 Hz), 6.65-6.60 (m, 1H), 4.18 (t, 2H, J=6.4 Hz), 3.22 and 3.12 (d of ABq, 2H, J=13.6 Hz), 2.98 (t, 2H, J=6.4 Hz), 2.37 (s, 3H), 1.40 (s, 3H).

reactant | 2-(3,4-difluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=C(C=C1)F)F)=O | C18H18F2O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-(3,4-Difluoro-phenoxy)-2-methyl-3-(4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | FC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C=2SC=CC2)C)C=CC1F | C26H23F2NO5S
